US07256300B2
Synthesis of (R)-2-[2-(5-Fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane
To a solution of (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol (42.7 g, 102 mmol) in 250 mL of anhydrous dichloromethane was added trimethyloxonium tetrafluoroborate (22.7 g, 153 mmol). The resulting suspension was stirred at room temperature for 4.5 hours. A solution of potassium carbonate (42.4 g, 307 mmol) in 250 mL of water was then added. After 16 hours, the reaction mixture was poured into 200 mL of saturated aqueous sodium bicarbonate solution and extracted with three 400 mL portions of dichloromethane. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by column chromatography with silica gel (eluted with 0%-2% EtOAc/hexanes) afforded the title compound as a pale yellow oil (28.3 g, 95%).

reactant | (S)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol | 102 mmol, 42.7 g | FC([C@](CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CSC1=CC=C(C=C1)C)(F)F | C21H24F4O2S
reactant | trimethyloxonium tetrafluoroborate | 153 mmol, 22.7 g | F[B-](F)(F)F.C[O+](C)C
reactant | potassium carbonate | 307 mmol, 42.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | (R)-2-[2-(5-Fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 28.3 g, 95% | FC=1C=CC(=C(C1)C(C[C@]1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
